US06353017B1
To a solution of (S)-2-amino-5-(3-carbomethoxyphenyl)-pentanamide HCl (0.30 g, 0.80 mmol), of 3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanine (0.23 g, 0.80 mmol), 1-hydroxybenzotriazole hydrate (0.135 g, 0.89 mmol) and N-methylmorpholine (0.35 ml, 3.2 mmol) in CH2Cl2 (25 mL) is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide.HCl (0.23 g, 1.2 mmol) in one portion, and the mixture is stirred at room temperature for 16 hours. The solution is then washed with 1 N HCl (100 mL), saturated aqueous NaHCO3 (1×50 mL), water (1×50 mL) and brine (1×50 mL), dried over MgSO4, and evaporated. The residual solid is triturated with ether to yield N-[4-(3-methoxycarbonyl-phenyl)-1(S)-(aminocarbonyl)-butyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide as a light yellow solid.

reactant | (S)-2-amino-5-(3-carbomethoxyphenyl)-pentanamide HCl | 0.80 mmol, 0.30 g | Cl.N[C@H](C(=O)N)CCCC1=CC(=CC=C1)C(=O)OC
reactant | 3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanine | 0.80 mmol, 0.23 g | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)O)C=CC1 | C24H23NO3
reactant | 1-hydroxybenzotriazole hydrate | 0.89 mmol, 0.135 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 3.2 mmol, 0.35 ml | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | CN(CCCN=C=NCC)C | C8H17N3
reactant | HCl | 1.2 mmol, 0.23 g | Cl | ClH
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(3-methoxycarbonyl-phenyl)-1(S)-(aminocarbonyl)-butyl]-3-methyl-Nα-(2,2-diphenylacetyl)-L-phenylalaninamide | COC(=O)C=1C=C(C=CC1)CCC[C@@H](C(=O)N)NC([C@@H](NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=CC(=CC=C1)C)=O | C37H39N3O5
